US04636506
6-(2,6-Difluorophenyl)-quinoline
A 1.55 M solution of n-butyllithium (40 ml) in hexanes was added dropwise to a stirred solution of 1,3-difluorobenzene (5.7 g) in 150 ml of dry tetrahydrofuran at -78° C. After one hour at -78° C. a solution of anhydrous zinc chloride (10.22 g) in 40 ml of tetrahydrofuran was added. After a further 10 minutes at -78° C., 9.36 g (45 mmoles) 6-bromoquinoline was added neat followed by tetrakistriphenylphosphine palladium (2.5 g, 2.16 mmoles). The solution was then allowed to warm slowly to room temperature and heated to 40° C. for 12 hours. The mixture was cooled to room temperature and quenched with saturated aqueous ammonium chloride. The pH was adjusted to 9 and the product was extracted with ethyl acetate, dried over MgSO4 ; filtered and concentrated in vacuo to give a white solid (9.5 g, 88%) of m.p. 112°-113° C.

reactant | n-butyllithium | 40 ml | C(CCC)[Li]
reactant | 1,3-difluorobenzene | 5.7 g | FC1=CC(=CC=C1)F | C6H4F2
reactant | 6-bromoquinoline | 45 mmoles, 9.36 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 10.22 g | [Cl-].[Zn+2].[Cl-]
product | 6-(2,6-Difluorophenyl)-quinoline | 9.5 g, 88% | FC1=C(C(=CC=C1)F)C=1C=C2C=CC=NC2=CC1 | C15H9F2N
